US04551169
1.38 g of 2-methoxy-6-methylaminopyridine and 1.38 g of anhydrous potassium carbonate were added to 20 ml of acetone, to which 2.23 g of 2-naphthyl chlorothioformate dissolved in 20 ml of acetone was added at room temperature under stirring. The stirring was continued for 30 minutes under the same conditions and then the mixture was heated to reflux for 2 hours. The reaction mixture was poured into water after it was cooled to room temperature and the products were extracted with benzene. The benzene solution was subsequently washed with water and aqueous saturated sodium chloride solution and then benzene was removed by distillation under reduced pressure after drying over anhydrous magnesium sulfate. The residue was purified by the column chromatography (eluted with benzene on a silica gel) to give 2.75 g of O-2-naphthyl N-(6-methoxy-2-pyridyl)-N-methylthiocarbamate (Yield: 85%). A part of the product was recrystallized from acetone-hexane. Colorless crystalls having melting point of 95.5° to 97° C. were obtained.

reactant | 2-methoxy-6-methylaminopyridine | 1.38 g | COC1=NC(=CC=C1)NC | C7H10N2O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-naphthyl chlorothioformate | 2.23 g | ClC(=S)OC1=CC2=CC=CC=C2C=C1 | C11H7ClOS
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | O-2-naphthyl N-(6-methoxy-2-pyridyl)-N-methylthiocarbamate | 2.75 g, Yield: 85% | COC1=CC=CC(=N1)N(C(OC1=CC2=CC=CC=C2C=C1)=S)C | C18H16N2O2S
